US08895733B2
Intermediate 3: 2-Amino-4-chloro-6-cyano-[1,3,5]triazine
To 2-amino-4-cyano-6-oxo-1,3,5-triazine (J. Am. Chem. Soc., 1961, 83, 1261-2, 2.30 g, 16.8 mmol) was added phosphoryl trichloride (50 mL, 547 mmol) and the mixture heated at 90 C for 2 h. The reaction mixture was cooled to room temperature before pouring onto ice-water (250 mL) and basifying to pH 8 with solid sodium carbonate. The mixture was then extracted into DCM (3×250 mL) and the combined organics were dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the desired compound, which was used crude without further purification (343 mg, 13%). Method C HPLC-MS: 2 MH+ requires m/z=311. Found: m/z=311, Rt=0.74 min (100%).

reactant | 2-amino-4-cyano-6-oxo-1,3,5-triazine | 16.8 mmol, 2.30 g | NC=1NC(N=C(N1)C#N)=O | C4H3N5O
reactant | phosphoryl trichloride | 547 mmol, 50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 2-Amino-4-chloro-6-cyano-[1,3,5]triazine | NC1=NC(=NC(=N1)Cl)C#N | C4H2ClN5
